US08703771B2
1-Hydroxy-2,3-dihydro-1H-indene-5-carbonitrile (4.77 g, 30 mmol) was dissolved in 10 mL of methylene dichloride. While cooled on ice, thionyl chloride (6.6 ml, 90 mmol) was added dropwise within about 15 minutes. The solution was concentrated after being stirred for 3 hours. The residue was dissolved in ethyl acetate and the solution obtained was washed with cooled brine for 3 times, dried over anhydrous magnesium sulfate, and concentrated to obtain 1-chloro-2,3-dihydro-1H-indene-5-carbonitrile.

reactant | 1-Hydroxy-2,3-dihydro-1H-indene-5-carbonitrile | 30 mmol, 4.77 g | OC1CCC2=CC(=CC=C12)C#N | C10H9NO
reactant | thionyl chloride | 90 mmol, 6.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene dichloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-chloro-2,3-dihydro-1H-indene-5-carbonitrile | ClC1CCC2=CC(=CC=C12)C#N | C10H8ClN
